US03962162
Articles of metal are made from metal powders using procedures as described above for ceramics. A mix of 25 gm. polyester premix 309-108, 3 gm. sucrose acetate isobutyrate, 5 gm. Zelec UN and 0.3 gm. benzoyl peroxide is mixed in a mortar and pestle with 500 gm. of tungsten powder. To the mix is then added 3 gm. of butyl stearate which gives a very plastic dough which is molded into crucible forms as in Example 18 holding it in the die for 1.5 minutes. The green crucibles have good strength, they are fired to tungsten crucibles with about 76% of theoretical density by firing to 1400° C. over about 4 hrs. in a hydrogen atmosphere of over 100° dewpoint.

reactant | sucrose acetate isobutyrate | CC(C)C(=O)OC[C@@H]1[C@H]([C@@H]([C@](O1)(COC(=O)C)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)COC(=O)C)OC(=O)C(C)C)OC(=O)C(C)C)OC(=O)C(C)C)OC(=O)C(C)C)OC(=O)C(C)C | C40H62O19
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
catalyst | tungsten | [W] | W
product | butyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCCCC | C22H44O2
